US07420001B2
A mixture of 0.175 g (0.5 mmol) of methyl N-[(4-bromophenyl)sulfonyl]-L-valinate, 0.25 g (1.5 mmol) of 4-nitrophenylboronic acid, 0.087 g of tetrakis(triphenylphosphine)palladium and 8 mL of saturated sodium bicarbonate in 8 mL of ethylene glycol dimethyl ether were refluxed for 2 h, then cooled to room temperature. To the reaction was added 50 mL of ethyl acetate and 40 mL of water. The water layer was extracted with ethyl acetate. The combined ethyl acetate layers was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography, eluting with hexane:ethyl acetate (2:1) to provide 0.159 g of methyl N-[(4′-nitro-1,1′-biphenyl-4-yl)sulfonyl]-L-valinate as a yellow solid. Yield 81%. m.p. 144-146° C.; MS: 391.0(M−H)−.

reactant | methyl N-[(4-bromophenyl)sulfonyl]-L-valinate | 0.5 mmol, 0.175 g | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C12H16BrNO4S
reactant | 4-nitrophenylboronic acid | 1.5 mmol, 0.25 g | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | sodium bicarbonate | 8 mL | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 8 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.087 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 40 mL | O | H2O
product | methyl N-[(4′-nitro-1,1′-biphenyl-4-yl)sulfonyl]-L-valinate | 0.159 g, Yield 81% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C18H20N2O6S
